US07189733B2
Step B: Preparation of 2-(2-fluorobenzoyl)-amino-5-bromo-benzamide
2-Amino-5-bromo-benzamide (2 g, 9.3 mmol) was dissolved in chloroform (40 ml) in a 50 ml round bottomed flask and cooled to 0° C. Pyridine (0.8 ml, 9.3 mmol) was added followed by 2-fluoro-benzoyl chloride (1.3 ml, 10 mmol) and the mixture was magnetically stirred for 1 hr at this temperature. 10% Hydrochloric acid (50 ml) was added and the precipitated solid was filtered, washed with water and dried to yield pure title compound (1.8 g, 57%).

reactant | 2-Amino-5-bromo-benzamide | 9.3 mmol, 2 g | NC1=C(C(=O)N)C=C(C=C1)Br | C7H7BrN2O
reactant | Pyridine | 9.3 mmol, 0.8 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-fluoro-benzoyl chloride | 10 mmol, 1.3 ml | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | Hydrochloric acid | 50 ml | Cl | ClH
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-fluorobenzoyl)-amino-5-bromo-benzamide | 1.8 g, 57% | FC1=C(C(=O)C2=C(C(=O)N)C=C(C=C2N)Br)C=CC=C1 | C14H10BrFN2O2
